US08084448B2
E. 5-(2-Hydroxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-(2-benzyloxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (87 mg, 0.217 mmol) in EtOH (2.5 mL) and water (22.5 mL) is added 10% Pd/C (100 mg) and the mixture is stirred under an atmosphere of H2 for 2.5 h. The mixture is filtered through Celite and the filtrate evaporated. The residue is purified by reverse phase HPLC (CH3CN/water/0.1% TFA) to afford the title compound as a light yellow solid: 1H NMR (CD3O4.37 (s, 1H), 7.04 (d, J=8 Hz, 1H), 7.08 (s, 1H), 7.35 (d, J=8 Hz, 1H), 7.97 (s, 1H), 8.79 (s, 1H); (M−1)−=310.

reactant | 5-(2-benzyloxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.217 mmol, 87 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C1=CN=CS1)N1CC(NS1(=O)=O)=O | C18H15N3O4S2
solvent | EtOH | 2.5 mL | CCO | C2H6O
solvent | water | 22.5 mL | O | H2O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 5-(2-Hydroxy-4-thiazol-5-yl-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C1=CN=CS1)N1CC(NS1(=O)=O)=O | C11H9N3O4S2
